Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Amoxicillin / Tapazole / Doxycycline / Femara / 
cefazolin / ibuprofen / ofloxacin
 
Attending: ___.
 
Chief Complaint:
diarrhea, weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history noted below who presents with 3 days of diarrhea, poor 
po
intake and fatigue. 

Patient recently underwent knee replacement surgery and was
discharged to rehab after a ___ hospital stay. Discharged from
rehab about a week ago and was doing well at the time. Began to
feel unwell about 3 days ago with frequent loose stools > 3 
times
a day, now progressed to watery. Diarrhe ais without blood or
mucus and not associated with abdominal pain. Has had poor po
intake for the past several days without nausea or vomiting but
does note post-prandial discomfort as well as inability to
tolerate anything heavier than toast or jello due to frequent
loose stool. She also notes polyuria and urinary frequency but 
no
dysuria or hematuria. She denies fevers or chills, denies
headaches, rashes, palpitations or URI symptoms. She missed her
medications this morning because she was feeling so unwell. She
notes that she had been taking oxycodone for her knee pain since
the surgery but has been tapered down and off over the past 
week.
She denies any other changes to her medications. She was in the
hospital for 3 days then rehab for about days up until a week
ago. She was seen for her post-op check by her orthopedic 
surgeon
and noted to be healing well / as can be expected. She denies
history of similar symptoms and has never been told she had low
sodium before. She does not take diuretics or SSRI's /
antipsychotics. 

Of note she recently had a knee replacement ___ weeks ago. She
was only given antibiotics perioperatively. Transferred here for
continued evaluation since patient was noted to be hyponatremic
to 122 at outside hospital and received NS bolus followed by
continuous NS at 150cc/hr.

In the ED: afebrile, P 60-70, BP 120-130's, 97% on RA. PE: 
A&Ox3,
NAD, abdomen soft, ndnt, lungs CTAB. Labs notable for Na 122, Cl
87, Cr 0.8 and negative C diff. In the ED she recived 1L NS 
bo.us
and on repeat serum Na had improved to 127 (10 hours later). 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
HLD
Hypothyroidism.
Gastroesophageal Reflux Disease.                                 
    
BREASTCANCER                                                     
H/O GRAVE'S DISEASE                         
 
Social History:
___
Family History:
Myocardial Infarcation, Stroke (father)
___ cancer(mother)
 
Physical Exam:
Admission exam
EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, right knee with
steri-strips along recent surgical site, no ozzing or purulence,
mild swelling relative to left without erythema or significant
warmth, minimal ttp
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam
EXAM(>=2)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Hyperactive BS, Abdomen soft, non-distended, non-tender to
palpation.No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, L knee with well healed
incision and moderate fullness - non TTP, mild erythema, no 
purulence or drainage from incision
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 09:45AM BLOOD WBC-6.6 RBC-3.85* Hgb-11.4 Hct-33.5* 
MCV-87 MCH-29.6 MCHC-34.0 RDW-12.6 RDWSD-40.0 Plt ___

___ 07:20AM BLOOD Glucose-79 UreaN-5* Creat-0.8 Na-136 
K-4.0 Cl-95* HCO3-23 AnGap-18*

C. Diff negative
 
Brief Hospital Course:
#Hyponatremia - hypovolvemic hyponatremia in the setting of
diarrhea and poor po intake for the past 3 days PTA. Na was as 
low as 122. Her sodium improved with IVF resuscitation. IVF were 
discontinued briefly on ___ however her sodium then dropped 
again and patient endorsing light-headedness and they were 
restarted. By ___, her diarrhea and appetite were improving 
therefore IVF again stopped. Her sodium remained stable on ___ 
at 136. 

#Diarrhea - unclear etiology, negative for C. diff. No obvious 
fevers, leukocytosis or abdominal pain to suggest infectious 
process although minimal improvement with fasting suggests 
secretory etiology, possibly viral vs. bacterial. Her symptoms 
improved with a bland diet. 

#OA ___ hip L knee replacement - has home health aid, ___ and
OT services at home. She complained of some stiffness but 
otherwise no pain or increased swelling and no leukocytosis or 
fevers to suggest infection. Patient will follow up with her 
orthopedist next week (___)

#Hypothyroidism - continue home synthroid (75mcg M-F, 50mcg 
daily
Sa-S)
#HL - continue home crestor

#GERD - continue protonix

Transitional care issues
Diarrhea - improving on d/c, monitor for recurrence
Hyponatremia - ___ diarrhea and poor po intake, check Na at PCP 
appointment
___ L knee TKA - some fullness and mild erythema on exam, needs 
to follow up with her ortho physician next week
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. DICYCLOMine 10 mg PO QID 
2. Rosuvastatin Calcium 5 mg PO QHS 
3. Pantoprazole 40 mg PO QAM 
4. Levothyroxine Sodium 75 mcg PO 5X/WEEK (___) 
5. Levothyroxine Sodium 50 mcg PO 2X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  Levothyroxine Sodium 75 mcg PO 5X/WEEK (___)  
3.  Levothyroxine Sodium 50 mcg PO 2X/WEEK (___)  
4.  Pantoprazole 40 mg PO QAM  
5.  Rosuvastatin Calcium 5 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hypovolemic hypo-osmolar hyponatremia
Diarrhea
___ L TKA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted for low sodium and diarrhea. ___ were treated 
with IV fluids for several days. 

___ should follow up with your PCP to check your sodium levels 
and how your diarrhea is doing. Please follow up with your 
orthopedist for your knee. 
 
Followup Instructions:
___